US06251926B1
After a mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (500 mg), methyl 9-oxo-9-phenylnonanoate (464 mg), 1N hydrochloric acid (3 ml), sodium acetate (264 mg) and methanol (20 ml) was heated to reflux for 72 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain an oil from an ethyl acetate-hexane (1:6, v/v)-eluted fraction. This was dissolved in tetrahydrofuran (10 ml)-methanol (5 ml), a 1N aqueous saturated solution of sodium hydroxide (5 ml) was added and stirred at room temperature for 1 hour. 1N hydrochloric acid (5.5 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-9-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-9-phenylnonanoic acid (323 mg, yield 37%) as colorless crystals. m.p. 67-68° C.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 500 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
reactant | methyl 9-oxo-9-phenylnonanoate | 464 mg | O=C(CCCCCCCC(=O)OC)C1=CC=CC=C1 | C16H22O3
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | sodium acetate | 264 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5.5 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | Water | O | H2O
product | E-9-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-9-phenylnonanoic acid | 323 mg, yield 37% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CCCCCCCC(=O)O)\C2=CC=CC=C2)C=C1 | C33H36N2O5
